2116-04-06 07:03:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 NASAL SWAB - At [**2116-4-5**] 09:15 PM
   Allergies:
   Inderal (Oral) (Propranolol Hcl)
   worsening of Ra
   Last dose of Antibiotics:
   Ceftriaxone - [**2116-4-5**] 10:31 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2116-4-6**] 12:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-4-6**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.1
C (97
   HR: 98 (81 - 105) bpm
   BP: 149/70(87) {115/51(66) - 149/70(87)} mmHg
   RR: 27 (21 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                  3,915 mL
                                                                    335 mL
   PO:
             TF:
   IVF:
                                                                    715 mL
                                                                    335 mL
   Blood products:
   Total out:
                                                                  1,295 mL
                                                                    560 mL
   Urine:
                                                                    345 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,620 mL
                                                                   -225 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///19/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   247 K/uL
   10.5 g/dL
   315 mg/dL
   1.1 mg/dL
   19 mEq/L
   3.7 mEq/L
   25 mg/dL
   112 mEq/L
   143 mEq/L
   32.3 %
   14.3 K/uL
        [image002.jpg]
                             [**2116-4-6**]  04:00 AM
   WBC
   14.3
   Hct
   32.3
   Plt
   247
   Cr
   1.1
   TropT
   0.13
   Glucose
   315
   Other labs: CK / CKMB / Troponin-T:643/11/0.13, ALT / AST:41/45, Alk
   Phos / T Bili:56/0.5, Differential-Neuts:86.7 %, Lymph:10.5 %, Mono:2.5
   %, Eos:0.2 %, Albumin:2.8 g/dL, LDH:316 IU/L, Ca++:6.7 mg/dL, Mg++:2.6
   mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   62 y/o F with DM, diabetic glomerulosclerosis, nephrotic syndrome,
   chronic hepatitis B, HTN, and asthma presenting with fever, rigors,
   abdominal pain and SOB, found to have UTI and likely asthma
   exacerbation.
   .
   .
   #. Fevers: patient had significant fever to 105 by EMS associated with
   rigors.  Meets criteris for SIRS given fever, bandemia, tachycardia and
   tachypnea.  Lactate elevated to 3.2, now improved with IVF.  UA here
   grossly positive and pt. gives h/o UTI symptoms.  CXR negative for
   infiltrate.  CT abd. and RUQ US negative for abdominal source and
   therefore UTI most likely.  Rigors and high temp concerning for
   pyelo/urosepsis.  Patient has h/o recurrent UTIs in past, cultures has
   been polymicrobial including E. coli, Klebsiella and VRE.  Received
   vanc/zosyn in ED.  Cultures have been pan-[**Last Name (un) 206**]. in past aside from
   VRE.  Temp coming down after tylenol in ED.  Has been hemodynamically
   stable without hypotension.
   - Start ceftriaxone given h/o pan-[**Last Name (un) 206**]. e coli and klebs.
   - Follow up blood/urine culture from ED, narrow abx based on ID/[**Last Name (un) 206**].
   - FOllow fever curve, WBC
   - CIS
   - IVF to maintain MAP>65 and UOP >50cc/hr
   .
   # SOB: Came on acutely in setting of sepsis.  Had audible wheezing in
   the ED which is consistent with her diagnosis of asthma.  Likely had
   increased respiratory drive in setting of high fevers rather than
   primary asthma exacerbation.  CXR in ED did not show worsened pulmonary
   edema which was also thought to be possible in setting of HTN and IVF.
   Has no h/o CHF with normal EF on TTE in [**2113**], however does have
   cardiomegaly on CXR and mild pulmonary engorgement so may be a
   component of CHF which is new from TTE in [**2113**].  Received solumedrol
   and duonebs with rapid improvement in symptoms.  Currently resp. status
   is stable, tachypnea resolving with decreased temp.  Unlikely cardiac
   given no changes on EKG, however trop slightly elevated at 0.05.
   - Standing nebs
   - Wean O2 as tolerated
   - Hold steroids given unlikely primary pulmonary cause for tachypnea,
   if rsp. status worsens or becomes more wheezy will consider pred.
   taper.
   - repeat CE in am
   - EKG in am
   - repeat TTE in am
   .
   # Acute on chronic renal failure: Cr elevated to 1.4 here. Baseline
   1.1.  Has h/o nephrotic syndrome.  Renal biopsy with Diabetic
   Glomerulosclerosis. Elevated Cr most likely pre-renal in setting of
   sepsis.
   - Cont. to follow after IVF hydration
   - if remains elevated will send urine lytes, renal US
   - Holding ACE and [**Last Name (un) 284**]
   - Holding lasix
   - Cont. calcitriol
   .
   # Diabetes: Follwed at [**Last Name (un) 294**].  Insulin recently changed to glargine
   [**Hospital1 **] for better control.  Also changed to Humalog SS. Last A1c shows
   suboptimal control.   FS here elevated to 237, likely in setting of
   acute infection.
   - Cont. home glargine 35 units [**Hospital1 **]
   - Humalog SS
   .
   # HTN: Patient's BP was elevated in ED and continues to be slightly
   elevated in ICU.  Likely in setting of acute illness/stress.  Given
   concern for sepsis and possible hypotension will hold off on treating
   and see where BP goes.
   - Hold ACE and CCB
   - If BP stable in am will restart
   .
   # Hepatitis B: stable, followed by Dr. [**Last Name (STitle) **]. HCC screening has been
   negative. Last Hep B VL was negative on [**10-14**]. Transaminases slightly
   above baseline, likely in setting of acute illness.
   - continune Adefovir
   - Trend LFTs
   .
   #. Anemia: Hct is currently at basline.
   - monitor hct
   .
   #. Hypercholesterolemia:
   - continue statin
   .
   #. h/o CVA: Has residual R-sided hemiparesis.  Exam today per daughter
   is at baseline.  In setting of acute illness could have unmasking of
   old deficits.
   - Cont. aggrenox
   - Monitor serial neuro exams
   - Consider CT head if acute MS changes or neuro exam changes.
   - Cont. baby ASA
   .
   #. FEN: Diabetic diet, IVF overnight. Follow lytes and replete as
   necessary.
   .
   #. PPX: heparin sc, on PPI.  Bowel regimen.
   .
   #. Code: Full, discussed with patient and daughter.
   .
   # Comm: daughter [**Name (NI) **] [**Name (NI) 5098**] (HCP) [**Telephone/Fax (1) 5099**]
   .
   #. Dispo: ICU for now, likely to floor in am if BP and resp. status
   stable
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2116-4-5**] 07:25 PM
   18 Gauge - [**2116-4-5**] 07:26 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2116-04-06 12:28:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Overnight, no new events.  Perhaps with left CVA tenderness.
   NASAL SWAB - At [**2116-4-5**] 09:15 PM
   History obtained from Medical records
   Patient unable to provide history: Language barrier
   Allergies:
   Inderal (Oral) (Propranolol Hcl)
   worsening of Ra
   Last dose of Antibiotics:
   Ceftriaxone - [**2116-4-5**] 10:31 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2116-4-6**] 12:11 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2116-4-6**] 12:22 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.2
C (97.2
   HR: 92 (81 - 105) bpm
   BP: 138/55(83) {115/51(66) - 166/70(92)} mmHg
   RR: 25 (20 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                  3,915 mL
                                                                    935 mL
   PO:
             600 mL
   TF:
   IVF:
                                                                    715 mL
                                                                    335 mL
   Blood products:
   Total out:
                                                                  1,295 mL
                                                                    960 mL
   Urine:
                                                                    345 mL
                                                                    960 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,620 mL
                                                                    -25 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///19/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: ),
   prolonged expiratory phase
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, Cyanosis, Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   10.5 g/dL
   247 K/uL
   315 mg/dL
   1.1 mg/dL
   19 mEq/L
   3.7 mEq/L
   25 mg/dL
   112 mEq/L
   143 mEq/L
   32.3 %
   14.3 K/uL
        [image002.jpg]
                             [**2116-4-6**]  04:00 AM
   WBC
   14.3
   Hct
   32.3
   Plt
   247
   Cr
   1.1
   TropT
   0.13
   Glucose
   315
   Other labs: CK / CKMB / Troponin-T:643/11/0.13, ALT / AST:41/45, Alk
   Phos / T Bili:56/0.5, Differential-Neuts:86.7 %, Lymph:10.5 %, Mono:2.5
   %, Eos:0.2 %, Albumin:2.8 g/dL, LDH:316 IU/L, Ca++:6.7 mg/dL, Mg++:2.6
   mg/dL, PO4:3.8 mg/dL
   Imaging: CXR ([**2116-4-5**]) no acute infiltrates
   Microbiology: Blood ([**2116-4-5**]) GNR in all bottles
   Assessment and Plan
   Sepsis, GNR bacteremia.
   SEPSIS  -- GNR bacteremia.  Not severe.  Responding to current
   therapy.  Monitor VS.
   BACTEREMIA -- high grade.  Likely urinary source.  Doubt Continue
   antimicrobials.
   URINARY TRACT INFECTION (UTI) -- possible source based on UA.
   ELEVATED CPK -- possible cardiac ischemia, suspect secondary demand
   ischemia.  Continue r/o MI.  ECG improved.  Check cardiac echo to
   assess chamber size, valve function.
   ASTHMA -- exacerbation in setting of sepsis.  Continue to optimize
   meds.
   TACHYCARDIA
 resolved.   Monitor.
   HTN
 monitor off medications.  Resume as clinically improves.
   FLUIDS -- hypovolemia.  Responding to iv fliuds.
   NUTRITIONAL SUPPORT -- PO
   RENAL FUNCTION -- oliguria improved with iv fliud hydration.
   HEPATITIS, CHRONIC HEP B -- stable.  NO acute issues.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2116-4-5**] 07:25 PM
   18 Gauge - [**2116-4-5**] 07:26 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 45 minutes
   Patient is critically ill

2116-04-07 06:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Allergies:
   Inderal (Oral) (Propranolol Hcl)
   worsening of Ra
   Last dose of Antibiotics:
   Ceftriaxone - [**2116-4-6**] 10:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-4-7**] 06:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 81 (76 - 104) bpm
   BP: 154/87(95) {104/52(73) - 171/87(101)} mmHg
   RR: 25 (20 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
                  Total In:
                                                                  1,235 mL
                  PO:
                                                                    850 mL
                  TF:
   IVF:
                                                                    385 mL
   Blood products:
   Total out:
                                                                  1,680 mL
                                                                    570 mL
   Urine:
                                                                  1,680 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -445 mL
                                                                   -570 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ////
   Physical Examination
   Gen: Sitting comfortable in bed eating breakfast, Cambodian only
   speaking
   HEENT: No scleral icterus. Slight R facial droop.
   Heart: RRR, No MRG
   Lungs: No wheezes, extremely prolonged expiratory phase
   Abd: Soft, NT, moderately tender in RUQ, BS+
   Ext: Trace edema in lower extremities bilaterally.
   Labs / Radiology
   247 K/uL
   10.5 g/dL
   315 mg/dL
   1.1 mg/dL
   19 mEq/L
   3.7 mEq/L
   25 mg/dL
   112 mEq/L
   143 mEq/L
   32.3 %
   14.3 K/uL
        [image002.jpg]
                             [**2116-4-6**]  04:00 AM
   WBC
   14.3
   Hct
   32.3
   Plt
   247
   Cr
   1.1
   TropT
   0.13
   Glucose
   315
   Other labs: CK / CKMB / Troponin-T:679/11/0.13, ALT / AST:41/45, Alk
   Phos / T Bili:56/0.5, Differential-Neuts:86.7 %, Lymph:10.5 %, Mono:2.5
   %, Eos:0.2 %, Albumin:2.8 g/dL, LDH:316 IU/L, Ca++:6.7 mg/dL, Mg++:2.6
   mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   62 y/o F with DM, diabetic glomerulosclerosis, nephrotic syndrome,
   chronic hepatitis B, HTN, and asthma presenting with fever, rigors,
   abdominal pain , SOB, gram negative bacteremia.
   .
   #. Fevers: Negative RUQ U/S. Positive U/A, GNR in blood, likely
   urosepsis.
   - Continue ceftriaxone
   - f/u urine cultures
   - f/u blood culture sensitivities
   .
   # SOB: Most likely asthma underlying and sepsis causing increased
   respiratory drive. Improved. No O2 requirement.
   - Standing nebs
   - Steroids if she starts wheezing
   .
   #Elevated Cardiac enzymes/ST depression on admission EKG: Resolved w/
   IVF and decreased rate. Likely demand ischemia, as ST depressions
   resolved w/ decreased rate.  Elevated CKs concerning for other muscle
   process.
   - Trend CK to peak
   .
   # Acute on chronic renal failure: Cr improved w/ IVF, at baseline
   - Continue holding ACEI/[**Last Name (un) 284**], consider restarting on floor.
   .
   # Diabetes: Follwed at [**Last Name (un) 294**].  Insulin recently changed to glargine
   [**Hospital1 **] for better control. Suboptimal control
   - Cont. home glargine 35 units [**Hospital1 **]
   - Humalog SS
   .
   # HTN: Patient's BP was elevated in ED and continues to be slightly
   elevated in ICU.  Likely in setting of acute illness/stress.  Given
   concern for sepsis holding BP meds while in ICU
   - Hold ACE and CCB
   - If BP stable in am will restart
   .
   # Hepatitis B: stable, followed by Dr. [**Last Name (STitle) **]. HCC screening has been
   negative. Last Hep B VL was negative on [**10-14**]. Transaminases slightly
   above baseline, likely in setting of acute illness, but would consider
   muscle process if trend upward.
   - continune Adefovir
   - Trend LFTs
   .
   #. Anemia: Hct dropped to 32 w/ large volume fluid resuscitation.
   - monitor hct
   .
   #. Hypercholesterolemia:
   - continue statin
   .
   #. h/o CVA: Has residual R-sided hemiparesis.  Exam today per daughter
   is at baseline.  In setting of acute illness could have unmasking of
   old deficits.
   - Cont. aggrenox
   - Monitor serial neuro exams
   - Consider CT head if acute MS changes or neuro exam changes.
   - Cont. baby ASA
   .
   #. FEN: Diabetic diet, IVF overnight. Follow lytes and replete as
   necessary.
   .
   #. PPX: heparin sc, on PPI.  Bowel regimen.
   .
   #. Code: Full, discussed with patient and daughter.
   .
   # Comm: daughter [**Name (NI) **] [**Name (NI) 5098**] (HCP) [**Telephone/Fax (1) 5099**]
   .
   #. Dispo: ICU for now, likely to floor in am if BP and resp. status
   stable
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2116-4-5**] 07:26 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2116-04-07 12:19:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   No new complaints.
   Hypertension evolving since holding anti-HTN meds.  Resuming usual
   meds.
   History obtained from Medical records
   Patient unable to provide history: Language barrier
   Allergies:
   Inderal (Oral) (Propranolol Hcl)
   worsening of Ra
   Last dose of Antibiotics:
   Ceftriaxone - [**2116-4-6**] 10:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2116-4-7**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2116-4-7**] 12:15 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.8
C (98.2
   HR: 86 (76 - 94) bpm
   BP: 178/72(97) {104/52(74) - 178/100(111)} mmHg
   RR: 24 (20 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
                  Total In:
                                                                  1,235 mL
                                                                    120 mL
   PO:
                                                                    850 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    385 mL
   Blood products:
   Total out:
                                                                  1,680 mL
                                                                    880 mL
   Urine:
                                                                  1,680 mL
                                                                    780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -445 mL
                                                                   -760 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ////
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , Wheezes
   : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   10.5 g/dL
   247 K/uL
   315 mg/dL
   1.1 mg/dL
   19 mEq/L
   3.7 mEq/L
   25 mg/dL
   112 mEq/L
   143 mEq/L
   32.3 %
   14.3 K/uL
        [image002.jpg]
                             [**2116-4-6**]  04:00 AM
   WBC
   14.3
   Hct
   32.3
   Plt
   247
   Cr
   1.1
   TropT
   0.13
   Glucose
   315
   Other labs: CK / CKMB / Troponin-T:679/11/0.13, ALT / AST:41/45, Alk
   Phos / T Bili:56/0.5, Differential-Neuts:86.7 %, Lymph:10.5 %, Mono:2.5
   %, Eos:0.2 %, Albumin:2.8 g/dL, LDH:316 IU/L, Ca++:6.7 mg/dL, Mg++:2.6
   mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   Sepsis, GNR bacteremia.
   SEPSIS  -- GNR bacteremia.  Not severe.  Responding to current
   therapy.  Monitor VS.
   BACTEREMIA -- high grade, GNR (pan-sensitive).  Likely urinary source.
   Doubt endocarditis or endovascular infection.  Continue
   antimicrobials.  Await final identification.
   URINARY TRACT INFECTION (UTI) -- possible source based on UA.
   ELEVATED CPK -- possible cardiac ischemia, suspect secondary demand
   ischemia.  Continue r/o MI.  ECG improved.  Check cardiac echo to
   assess chamber size, valve function.  Suspect NSTEMI in setting of
   sepsis.
   ASTHMA -- exacerbation in setting of sepsis.  Improved.  Continue to
   optimize meds.
   TACHYCARDIA
 resolved.   Monitor.
   HTN
 monitor off medications.  Resume usual medications as clinically
   improves.
   FLUIDS -- hypovolemia.  Responding to iv fliuds.  Monitor i/o
   NUTRITIONAL SUPPORT
 encourage PO
   RENAL FUNCTION -- oliguria improved with iv fliud hydration.
   HEPATITIS, CHRONIC HEP B -- stable.  No acute issues.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2116-4-5**] 07:26 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 45 minutes